US08207334B2
Preparation of 1-(2-Piperidin-1-yl-ethyl)-1H-imidazol-2-ylamine (Step 1)
2-Aminoimidazole monosulfate (500 mg, 1.89 mmol) and potassium carbonate (580 mg, 4.16 mmol) were suspended in DMF (2 mL) and chloroethyl piperidine mono hydrochloride (766 mg, 4.16 mmol) was added. The reaction was heated at 100° C. for 2.5 hours before being cooled to room temperature and filtered. The filtrate was concentrated and purified by column chromatography (95:4.5:0.5 dichloromethane:methanol:aqueous ammonia) and the product was isolated as a brown oil (83 mg, 11%).

reactant | 2-Aminoimidazole monosulfate | 1.89 mmol, 500 mg | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | potassium carbonate | 4.16 mmol, 580 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloroethyl piperidine mono hydrochloride | 4.16 mmol, 766 mg | Cl.ClCCN1CCCCC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2-Piperidin-1-yl-ethyl)-1H-imidazol-2-ylamine | 83 mg, 11% | N1(CCCCC1)CCN1C(=NC=C1)N | C10H18N4
